US04690934
1.75 g (0.01 mol) of 4-fluorobenzenesulfonamide were dissolved in 30 ml of pyridine, and added dropwise by 2.06 g (0.01 mol) of 2-chloro-6-methoxyisonicotinoyl chloride at 0° C. to 5° C., followed by agitation for 2 hrs. at room temperature. After acidified by adding aqueous hydrochloric acid, the precipitate was extracted by ethyl acetate. The organic layer obtained was dried and them concentrated to precipitate crude crystals, which were recrystallized by n-hexane/ethylacetate to 2.1 g (yield: 61.0%) of N-(4-fluorophenylsulfonyl)-2-chloro-6-methoxy isonicotinamide as white crystal.

reactant | 4-fluorobenzenesulfonamide | 0.01 mol, 1.75 g | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | 2-chloro-6-methoxyisonicotinoyl chloride | 0.01 mol, 2.06 g | ClC=1C=C(C(=O)Cl)C=C(N1)OC | C7H5Cl2NO2
reactant | hydrochloric acid | Cl | ClH
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-fluorophenylsulfonyl)-2-chloro-6-methoxy isonicotinamide | 2.1 g, yield: 61.0% | FC1=CC=C(C=C1)S(=O)(=O)NC(C1=CC(=NC(=C1)OC)Cl)=O | C13H10ClFN2O4S
